US09376422B2
Methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate
To a stirred solution of methyl 2-methyl-3-nitro-5-(trifluoromethyl)benzoate (20.0 g, 76.0 mmol) in MeOH (400 ml) was added Pd(OH)2 (2.00 g). The reaction mixture was stirred for 3 hours under hydrogen atmosphere. After purging with nitrogen, the mixture was filtered and the filtrate was concentrated in vacuo to give the titled compound as an orange solid (10.2 g, 58% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.47 (brs, 1H), 7.01 (d, J=2.0 Hz, 1H), 3.92 (m, 2H), 3.91 (s, 3H), 2.39 (s, 3H).

reactant | methyl 2-methyl-3-nitro-5-(trifluoromethyl)benzoate | 76.0 mmol, 20.0 g | CC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C10H8F3NO4
solvent | MeOH | 400 ml | CO | CH4O
catalyst | Pd(OH)2 | 2.00 g | [OH-].[OH-].[Pd+2]
product | Methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate | 10.2 g, 58% yield | NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C10H10F3NO2
